data/core_train_final.csv
"[H:20][C:21](CC(CC)C(O)=O)(C(O)=O)CC(C(O)=O)C[CH:10]C(O)=O>>[H:20][CH:10](C(O)=O)CC(C(O)=O)C[C:21](C(O)=O)CC(CC)C(O)=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:12][O:11][CH:10]1[CH2:9][CH:8]2[CH2:7][CH:3]([C:2]1[CH3:1])[C:4]2([CH3:5])[CH3:6].[O:13][O:14]>>[H:12][O:11][CH:10]1[CH2:9][CH:8]2[CH2:7][CH:3]([C:4]2([CH3:5])[CH3:6])[C:2]1([CH3:1])[O:13][O:14] 2-2,13; 13-13,2",Room Temperature,Termination,recombine
"[H:6][Si:7]([Si:8]([CH3:9])([CH3:10])[CH3:11])([Si:12]([CH3:13])([CH3:14])[CH3:15])[Si:16]([CH3:17])([CH3:18])[CH3:19].[CH3:1][C:2]([CH3:3])[C:5]#[N:4]>>[H:6][C:2]([CH3:1])([CH3:3])[C:5]#[N:4].[CH3:11][Si:8]([CH3:10])([CH3:9])[Si:7]([Si:12]([CH3:14])([CH3:15])[CH3:13])[Si:16]([CH3:18])([CH3:19])[CH3:17] 2-2,6; 7,6-6,2; 6,7-7",Room Temperature,Propagation,abstraction
"[CH3:10].C1=CC(=CC(=C1)[CH:20]=[C:21](C#N)C#N)Br>>[CH3:10][CH:20](C1=CC=CC(=C1)Br)[C:21](C#N)C#N 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][S:21]CCC1=CC=CC=C1.C[C:10](C)C#N>>[H:20][C:10](C)(C)C#N.C1=CC=C(C=C1)CC[S:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:1][CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][CH2:7][CH2:8][S:9][CH2:10][C:11]([CH3:19])([CH2:12][C:13]([CH3:18])[C:14](=[O:17])[O:15][CH3:16])[C:20](=[O:23])[O:21][CH3:22].[CH3:26][C:25](=[CH2:24])[C:27](=[O:30])[O:28][CH3:29]>>[CH3:1][CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][CH2:7][CH2:8][S:9][CH2:10][C:11]([CH3:19])([CH2:12][C:13]([CH3:18])([CH2:24][C:25]([CH3:26])[C:27](=[O:30])[O:28][CH3:29])[C:14](=[O:17])[O:15][CH3:16])[C:20](=[O:23])[O:21][CH3:22] 13-24,13; 25,24-24,13; 25,24-25",Room Temperature,Propagation,addition
"[H:6][Br:7].[CH3:1][C:2]([CH3:5])[CH2:3][Br:4]>>[H:6][C:2]([CH3:1])([CH3:5])[CH2:3][Br:4].[Br:7] 7,6-7; 7,6-2,6; 2-2,6",Room Temperature,Propagation,abstraction
"[CH2:10]O[C:20]1=[C:21](/C(CC2)=C([H])/C(C)(C)OCC3=CC=CC=C3)[C:22]2=[C:23]([O:24])C(OC)=C1OC>>[H]/C(C(C)(C)OCC4=CC=CC=C4)=C(CC5)\[C:21]6=[C:22]5[C:23](C(OC)=C(OC)[C:20]67O[CH2:10]7)=[O:24] 10-10,20;20,21-10,20;20,21-21,22;22,23-21,22;22,23-23,24;24-23,24",Room Temperature,Termination,addition
"[H:20][CH2:21]C1=CC2=C(C=CC=C2)C=C1.[Br:10]>>[H:20][Br:10].[CH2:21]C1=CC2=C(C=CC=C2)C=C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"COC(=O)[C@H]([C@@H]1C[CH:10]C=C1)[N+:20](CCC#N)[O-]>>COC(=O)[C@@H]1[C@@H]2C[CH:10](C=C2)[N+:20]1(CCC#N)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH:21](CC)CCCC.[Cl:10][Cl:11]>>[H:20][Cl:10].CCCC[CH:21]CC.[Cl:11] 10,11-10,20;10,11-11;20,21-10,20;20,21-21",Room Temperature,Initiation,homolyze
"[H:8][C:7]1([CH2:6][CH2:5][CH2:4][C:3](=[C:2]1[CH3:1])[CH3:10])[H:9].[Br:11]>>[H:8][C:7]1[CH2:6][CH2:5][CH2:4][C:3](=[C:2]1[CH3:1])[CH3:10].[H:9][Br:11] 11-11,9;7,9-9,11;7,9-7",Room Temperature,Propagation,abstraction
"COC(=O)[C@H]([C@@H]1C[CH:10]C=C1)N(CCC#N)[O:20]>>COC(=O)[C@@H]1[C@@H]2C[CH:10](C=C2)[O:20]N1CCC#N 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[N:10]=O.[O:20]Cl>>[N:10](=O)[O:20]Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[O:20]=[C:21](C)CC.[Na:10]>>[Na:10][O:20][C:21](C)CC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH3:5][C:4]([CH3:6])([CH3:7])[C:3]1=[C:2]([CH:13]=[CH:12][C:9](=[CH:8]1)[O:10][CH3:11])[O:1]>>[CH3:5][C:4]([CH3:6])([CH3:7])[C:3]1[CH:8]=[C:9]([CH:12]=[CH:13][C:2]1=[O:1])[O:10][CH3:11] 1-1,2; 2,3-3; 2,3-1,2",Room Temperature,Propagation,resonance
"[O:10][C:20]3(CC4)C(C(OCC)=O)([CH2:21]3)C5=C4C=CC=C5>>[O:10]=[C:20](CC1)C(C(OCC)=O)([CH2:21])C2=C1C=CC=C2 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"CC(C)CC[CH2:10].[Cl:20][Cl:21]>>CC(C)CC[CH2:10][Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][S:21]CCC1=CC=CC=C1.C[C:10](C)C1CCC(C1CSCCC2=CC=CC=C2)(C)OC(=O)C>>[H:20][C:10](C)(C)C1CCC(C1CSCCC2=CC=CC=C2)(C)OC(=O)C.C1=CC=C(C=C1)CC[S:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)C(C)[CH2:10].[Cl:20][Cl:21]>>CC(C)C(C)[CH2:10][Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:9][Br:8].[CH3:5][CH2:4][C:3]([CH2:6][CH3:7])[CH:2]=[CH2:1].[Br:10]>>[H:9][Br:8].[CH3:5][CH2:4][C:3]([CH2:6][CH3:7])([CH:2]=[CH2:1])[Br:10] 10-3,10;3-3,10",Room Temperature,Termination,recombine
"[CH:6]1=[CH:5][C:4]2=[CH:9][C:10]3=[C:11]([CH:12]=[CH:13][CH:14]=[CH:15]3)[C:2](=[C:3]2[CH:8]=[CH:7]1)[O:1]>>[CH:6]1=[CH:5][C:4]2=[CH:9][C:10]3=[C:11]([CH:12]=[CH:13][CH:14]=[CH:15]3)[C:2](=[O:1])[C:3]2[CH:8]=[CH:7]1 1-1,2; 2,3-1,2; 2,3-3",Room Temperature,Propagation,resonance
"[H:20][CH:21]1CCCO1.CC(C)(C)[O:10]>>[H:20][O:10]C(C)(C)C.C1C[CH:21]OC1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:3][O:4][O:5].[O:2][I:1]>>[H:3][O:2][I:1].[O:4][O:5] 2-2,3; 3,4-2,3; 3,4-4",Room Temperature,Propagation,abstraction
